US04814341
2-Guanidino-4-(5-[N-n-hexyl-N-methylcarbamoyl]-2-furyl)thiazole Hydrobromide
A mixture of 6.8 g. (0.02 mole) of N-n-hexyl-N- methyl-5-(2-bromoacetyl)furan-2-carboxamide, 2.4 g. (0.02 mole) of guanylthiourea and 225 ml. of acetone was stirred at room temperature for 2 hours. The solid was recovered by filtration (5.4 g.) and recrystallized from ethanol to give 812 mg. of the title compound as a white solid, mp. 226°-228° C.

reactant | N-n-hexyl-N- methyl-5-(2-bromoacetyl)furan-2-carboxamide | 0.02 mole | C(CCCCC)N(C(=O)C=1OC(=CC1)C(CBr)=O)C | C14H20BrNO3
reactant | guanylthiourea | 0.02 mole | C(N)(=N)NC(=S)N | C2H6N4S
solvent | acetone | CC(=O)C | C3H6O
product | 2-Guanidino-4-(5-[N-n-hexyl-N-methylcarbamoyl]-2-furyl)thiazole Hydrobromide | Br.N(C(=N)N)C=1SC=C(N1)C=1OC(=CC1)C(N(C)CCCCCC)=O | InChI=1S/C16H23N5O2S.BrH/c1-3-4-5-6-9-21(2)14(22)13-8-7-12(23-13)11-10-24-16(19-11)20-15(17)18;/h7-8,10H,3-6,9H2,1-2H3,(H4,17,18,19,20);1H
